US04341653
4-(2-Methyl-butyl)-4'-biphenylcarboxylic acid in racemic form as a raw material was prepared according to a method described in the above Japanese patent No. 908,101 (Japanese patent publication No. Sho 52-41,256/1977). This product had a melting point of 223° C. and when melted, formed a smectic liquid crystal. Further 4-n-pentylcyclohexanol was synthesized by the catalytic hydrogenation of p-n-pentylphenol, and a mixture of 65% of trans-form substance with 35% of cis-form substance obtained by subjecting the above product to fractional distillation was employed.

reactant | 4-(2-Methyl-butyl)-4'-biphenylcarboxylic acid | CC(CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)CC | C18H20O2
reactant | p-n-pentylphenol | C(CCCC)C1=CC=C(C=C1)O | C11H16O
product | 4-n-pentylcyclohexanol | C(CCCC)C1CCC(CC1)O | C11H22O
